US07081456B2
To a suspension of finely ground 4-(6-Fluoro-3-oxo-3,5-dihydro-pyrazolo[4,3-c]quinolin-2-yl]-benzoic acid (1.1 g. 3.4 mmol) in dichloromethane (6 ml) was added oxalyl chloride (2.4 ml, 29 mmol) followed by a drop of dimethyl formamide. The mixture was stirred under nitrogen at 45° C. for 3 h. The solvent was removed in vacuum to yield 4-(6-Fluoro-3-oxo-3,5-dihydro-pyrazolo[4, 3-c]quinolin-2-yl]-benzoyl chloride (1.15 g, quantitative) as a pale yellow solid that was used without further purification.

reactant | 4-(6-Fluoro-3-oxo-3,5-dihydro-pyrazolo[4,3-c]quinolin-2-yl]-benzoic acid | 3.4 mmol, 1.1 g | FC1=CC=CC=2C=3C(=CNC12)C(N(N3)C3=CC=C(C(=O)O)C=C3)=O | C17H10FN3O3
reactant | oxalyl chloride | 29 mmol, 2.4 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethyl formamide | CN(C=O)C | C3H7NO
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
product | 4-(6-Fluoro-3-oxo-3,5-dihydro-pyrazolo[4, 3-c]quinolin-2-yl]-benzoyl chloride | 1.15 g | FC1=CC=CC=2C=3C(=CNC12)C(N(N3)C3=CC=C(C(=O)Cl)C=C3)=O | C17H9ClFN3O2
